US05567849
Diisoamyl Sulfide
Isoamyl bromide (21.88 g, 0.21 mol) and tetrabutylammonium bromide (1.61 g, 5 mmol) were added to a solution of sodium sulfide nonahydrate (24.02 g, 0.10 mol) in water (50 ml) and the mixture was refluxed with stirring for 6 h. The organic layer was separated, the aqueous layer was extracted with pentane (25 ml). The extract was combined with the organic layer and dried with anhydrous magnesium sulfate. Distillation gave 15.85 g, 91% of a colorless liquid, bp 49°-50° C./0.1 mm Hg, n20D=1.4514, >99% GC pure; 1H NMR (CDCl3) δ 0.95 (d, J=6 Hz, 12H, CH3), 1.47 (q, J=6 Hz, 4H, CH2), 1.68 (septet, J=6 Hz, 2H, CH), 2.51 (t, J=6 Hz, 4H, CH2).

reactant | Isoamyl bromide | 0.21 mol, 21.88 g | C(CC(C)C)Br | C5H11Br
reactant | sodium sulfide nonahydrate | 0.10 mol, 24.02 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
catalyst | tetrabutylammonium bromide | 5 mmol, 1.61 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 50 ml | O | H2O
product | Diisoamyl Sulfide | 15.85 g, 91% | C(CC(C)C)SCCC(C)C | C10H22S
